US09127003B2
(R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone
To a solution of (R)-tert-butyl(1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate (1.5587 g, 2.79 mmol) in DCM (10 ml) was added TFA (5 mL, 65.3 mmol) dropwise. The reaction mixture was stirred for 30 minutes and then concentrated under vacuum to afford an oil. The oil was dissolved in methanol and loaded onto a 70 g SCX cartridge. The column was washed with MeOH (2CV) and the product collected as the free base with 2M ammonia in methanol (3CV). The product was concentrated in vacuo yield a crude product. This was purified by high pH MDAP (Method E). Appropriate fractions were combined and concentrated in vacuo to yield the title compound as a white solid, 1.127 g.

reactant | (R)-tert-butyl(1-(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazole-5-carbonyl)piperidin-3-yl)carbamate | 2.79 mmol, 1.5587 g | C(C)(C)(C)OC(N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C(=C1)OC)=O | C31H38N6O4
reactant | TFA | 65.3 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | (R)-(3-Aminopiperidin-1-yl)(2-(1-(cyclopropylmethyl)-1H-pyrrolo[2,3-b]pyridin-2-yl)-7-methoxy-1-methyl-1H-benzo[d]imidazol-5-yl)methanone | N[C@H]1CN(CCC1)C(=O)C1=CC2=C(N(C(=N2)C2=CC=3C(=NC=CC3)N2CC2CC2)C)C(=C1)OC | C26H30N6O2
